US04514571
The procedures of Example 1 were repeated except that (5-t-butyl-3-isooxazoyl)formamide and methylamine were replaced with benzamide and dimethylamine, respectively, to give N,N'-dimethyl-N'-phenylurea in 64.70% yield.

reactant | (5-t-butyl-3-isooxazoyl)formamide | C(C)(C)(C)C1=CC(=NO1)C(=O)NC=O | C9H12N2O3
reactant | methylamine | CN | CH5N
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | dimethylamine | CNC | C2H7N
product | N,N'-dimethyl-N'-phenylurea | 64.70% yield | CNC(=O)N(C1=CC=CC=C1)C | C9H12N2O
